US08563575B2
A mixture of 3-[4-(benzyloxy)phenyl]-1-ethyl-6-methoxy-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (120 mg) and 10% palladium on carbon (40 mg) in MeOH (10 mL) was hydrogenated under balloon pressure at room temperature for 2 h. The catalyst was removed by filtration and the filtrate was concentrated in vacuo to give 1-ethyl-3-(4-hydroxyphenyl)-6-methoxy-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (75 mg) as white crystals.

reactant | 3-[4-(benzyloxy)phenyl]-1-ethyl-6-methoxy-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 120 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(N(C=2C1=NC=C(C2)OC)CC)=O | C22H21N3O3
catalyst | palladium on carbon | 40 mg | [Pd] | Pd
solvent | MeOH | 10 mL | CO | CH4O
product | 1-ethyl-3-(4-hydroxyphenyl)-6-methoxy-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 75 mg | C(C)N1C(N(C2=NC=C(C=C21)OC)C2=CC=C(C=C2)O)=O | C15H15N3O3
